US06271265B1
Synthesis of N-tert-Butyl 2-Acetoxybenzamide
Following the procedure of Example 1 above and using 2-acetoxybenzoyl chloride and tert-butylamine, the title compound was prepared.

reactant | 2-acetoxybenzoyl chloride | C(C)(=O)OC1=C(C(=O)Cl)C=CC=C1 | C9H7ClO3
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
product | N-tert-Butyl 2-Acetoxybenzamide | C(C)(C)(C)NC(C1=C(C=CC=C1)OC(C)=O)=O | C13H17NO3
